US08008506B2
1-Benzyl-3-ethylindazol-6-ol
1-(2-Fluoro-4-hydroxyphenyl)propan-1-one (5.37 g) that can be produced by the method described in Reference Example 9 or the like, sodium acetate (12.75 g; manufactured by Wako Pure Chemical Industries, Ltd.) and benzylhydrazine dihydrochioride (9.452 g; manufactured by Sigma-Aldrich Co.) were suspended in xylene (76 mL). The suspension was stirred overnight at reflux using a Dean-Stark apparatus. The reaction solution was cooled to room temperature, subsequently water was added thereto, and the mixture was extracted two times with ethyl acetate. The organic layer was washed two times with water and with brine, and was dried over anhydrous sodium sulfate. Subsequently, the solvent was evaporated under reduced pressure. Before completely evaporating the solvent, precipitates were filtered, and the solids were washed with n-hexane. Thus, the title compound (4.76 g) was obtained. Furthermore, the filtrate was concentrated under reduced pressure, and the solids precipitating in the middle of the concentrating process were also filtered. Thus, the title compound (3.44 g) was obtained.

reactant | sodium acetate | 12.75 g | C(C)(=O)[O-].[Na+]
reactant | benzylhydrazine dihydrochioride | 9.452 g | Cl.Cl.C(C1=CC=CC=C1)NN
reactant | water | O | H2O
solvent | xylene | 76 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 1-Benzyl-3-ethylindazol-6-ol | 4.76 g | C(C1=CC=CC=C1)N1N=C(C2=CC=C(C=C12)O)CC | C16H16N2O
